US09315475B2
Step 4: Preparation of [(2S,5S)-4-benzyl-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholin-2-yl]methanol
To (2S)-2-(benzylamino)-3-{[tert-butyl(dimethyl)silyl]oxy}propan-1-ol (1 eq) in Toluene (0.3 M) at rt was added (R)-(−)-epichlorohydrin (1.3 eq.) and Lithium perchlorate (1.3 eq) was then slowly added over 2 hours. The mixture was stirred at rt for 48 hrs and sodium methoxide (2.5 eq of a 25% solution of NaOMe in MeOH) was added. MeOH was then added to the reaction mixture to obtain a 4:1 ratio of toluene:MeOH as solvent. The reaction mixture was stirred for 48 hrs at rt and diluted with saturated aqueous NH4Cl. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by automated SiO2 flash chromatography system using solvent gradient of 0% EtOAc/Hex to 25% EtOAc/Hex to afford the desired compound.

reactant | (2S)-2-(benzylamino)-3-{[tert-butyl(dimethyl)silyl]oxy}propan-1-ol | 1 eq | C(C1=CC=CC=C1)N[C@@H](CO)CO[Si](C)(C)C(C)(C)C | C16H29NO2Si
reactant | (R)-(−)-epichlorohydrin | 1.3 eq. | C(Cl)[C@H]1CO1 | C3H5ClO
reactant | Lithium perchlorate | 1.3 eq | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | sodium methoxide | C[O-].[Na+]
solvent | Toluene | 0.3 M | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
solvent | NH4Cl | [NH4+].[Cl-]
product | [(2S,5S)-4-benzyl-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholin-2-yl]methanol | C(C1=CC=CC=C1)N1C[C@H](OC[C@H]1CO[Si](C)(C)C(C)(C)C)CO | C19H33NO3Si
